US07452894B2
2-Amino-N-n-butyl-6-(2-furyl)-9H-purine-9-carboxamide (Example 36)
A solution of 6-(2-furyl)-1H-purine-2-amine (0.050 g, 0.25 mmol) and DMAP (5 mg, 0.03 mmol) in anhydrous DMF (1 μL) was treated with n-butylisocyanate (0.029 g, 0.30 mmol), shaken at 65° C. for 1 h, poured onto ice-cold water (10 mL), cooled at 0° C. for 15 min and the resulting precipitate filtered and dried in vacuo over P2O5 to give the title compound (74 mg, 100%) as a white solid.

reactant | 6-(2-furyl)-1H-purine-2-amine | 0.25 mmol, 0.050 g | O1C(=CC=C1)C1=C2N=CN=C2N=C(N1)N | C9H7N5O
reactant | n-butylisocyanate | 0.30 mmol, 0.029 g | C(CCC)N=C=O | C5H9NO
catalyst | DMAP | 0.03 mmol, 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 1 μL | CN(C)C=O | C3H7NO
product | 2-Amino-N-n-butyl-6-(2-furyl)-9H-purine-9-carboxamide | 74 mg, 100% | NC1=NC(=C2N=CN(C2=N1)C(=O)NCCCC)C=1OC=CC1 | C14H16N6O2
